US05051422
4-(3,5-Dichlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]-2-[[(4-nitrophenyl)methoxy]methyl]piperazine
In a manner similar to Preparation 19, react 4-(3,5-dichlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]-2-piperazinemethanol with sodium hydride and 1-(chloromethyl)-4-nitrobenzene to give the titlecompound.

reactant | 4-(3,5-dichlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]-2-piperazinemethanol | ClC=1C=C(C=C(C1)Cl)N1CC(N(CC1)CC1=CC(=C(C=C1)OC)OC)CO | C20H24Cl2N2O3
reactant | sodium hydride | [H-].[Na+]
reactant | 1-(chloromethyl)-4-nitrobenzene | ClCC1=CC=C(C=C1)[N+](=O)[O-] | C7H6ClNO2
product | 4-(3,5-Dichlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]-2-[[(4-nitrophenyl)methoxy]methyl]piperazine | ClC=1C=C(C=C(C1)Cl)N1CC(N(CC1)CC1=CC(=C(C=C1)OC)OC)COCC1=CC=C(C=C1)[N+](=O)[O-] | C27H29Cl2N3O5
